US09056875B2
a. Preparation of 5,6-Dimethyl-3-Thioxo-2,3-Dihydropyridazine-4-Carbonitrile
A solution of 3-chloro-5,6-dimethylpyridazine-4-carbonitrile (100 mg, 0.60 mmol) and sodium sulfide was stirred in tert-butanol (2.0 mL) in a microwave reaction vial. The vial was sealed and irradiated at 100° C. for 10 minutes. LC/MS indicated product and no remaining starting material. The reaction solution was diluted with IPA (˜10 mL) and stirred at ambient temperature for about 15 minutes, then filtered. The solids on the filter were washed with IPA. The solute was concentrated in vacuo, and the resulting solid was dried overnight at 60° C. in a vacuum oven to give the product. LC/MS: RT=0.24 min., m/z=166 [M+H]+.

reactant | 3-chloro-5,6-dimethylpyridazine-4-carbonitrile | 0.60 mmol, 100 mg | ClC=1N=NC(=C(C1C#N)C)C | C7H6ClN3
reactant | sodium sulfide | [S-2].[Na+].[Na+]
solvent | tert-butanol | 2.0 mL | C(C)(C)(C)O | C4H10O
solvent | IPA | ˜10 mL | CC(C)O | C3H8O
product | 5,6-Dimethyl-3-Thioxo-2,3-Dihydropyridazine-4-Carbonitrile | CC1=C(C(NN=C1C)=S)C#N | C7H7N3S
